US06743790B2
1a. (S)-2-[3-(4-Cyanophenyl)ureido]propionic Acid Ethyl Ester
A solution of 4-aminobenzonitrile (2.3 g, 0.0195 mol) and N,N′-carbonyldiimidazole (3.5 g, 0.332 mol) in DMF (20 ml) was heated at 80° C. for 7 hours (h). A solution of L-alanine ethyl ester (3 g, 0.0195 mol) in DMF (15 ml) was added and stirring was continued for 3 days (d) at 80° C. Water (300 ml) was added and the precipitate was filtered off (giving 750 mg of the dimer as side product). The solution was extracted with ethyl acetate to give 3 g of the title compound which contained the corresponding acid as side product. MS (mass spectrometry) peak was at 262.1 (M+1)+.

reactant | 4-aminobenzonitrile | 0.0195 mol, 2.3 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | L-alanine ethyl ester | 0.0195 mol, 3 g | C(C)OC([C@@H](N)C)=O | C5H11NO2
reactant | Water | 300 ml | O | H2O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (S)-2-[3-(4-Cyanophenyl)ureido]propionic Acid Ethyl Ester | 3 g | C(C)OC([C@H](C)NC(=O)NC1=CC=C(C=C1)C#N)=O | C13H15N3O3
